US07718692B2
N-(4-Hydroxy-phenyl)-2-mercapto-acetamide
A mixture of 4-aminophenol (4.0 g, 36.7 mmol) and mercaptoacetic acid (2.93 g, 38.5 mmol) under an atmosphere of carbon dioxide was heated to reflux (oil bath temperature ˜120° C.) for 4 hours. The mixture was cooled and diluted with 2 N hydrochloric acid (˜100 mL). A purple solid, 1.3 g, was collected by filtration and washed with water. The product was purified by flash chromatography, on silica gel, eluted with 5 to 10% methanol in DCM, to give a colorless solid, 1.03 g (15%). MS m/z 184 (MH+). 1H NMR(DMSO-d6) δ 2.08 (t, 1H), 3.24 (s, 2H), 6.70 (d, 2H), 7.35 (d, 2H), 9.21 (br s, 1H) and 9.83 (s, 1H). Anal. calcd for C8H9NO2S: C, 52.44; H, 4.95; N, 7.64. Found: C, 52.57; H, 4.95; N, 7.40.

reactant | 4-aminophenol | 36.7 mmol, 4.0 g | NC1=CC=C(C=C1)O | C6H7NO
reactant | mercaptoacetic acid | 38.5 mmol, 2.93 g | SCC(=O)O | C2H4O2S
solvent | hydrochloric acid | 2 N, ˜100 mL | Cl | ClH
product | N-(4-Hydroxy-phenyl)-2-mercapto-acetamide | OC1=CC=C(C=C1)NC(CS)=O | C8H9NO2S
